US06492383B1
[6-(4-Ethyl-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-(1H-indol-5-yl)-amine
The title compound was prepared from 4-ethylbenzeneboronic acid and (6-bromo-thieno[3,2-d]pyrimidin-4-yl)-(1H-indol-5-yl)-amine by a procedure analogous to example 2. M.P. 171-182° C.; LC-MS: 371 (MH+); HPLC RT: 5.13 minutes.

reactant | 4-ethylbenzeneboronic acid | C(C)C1=CC=C(C=C1)B(O)O | C8H11BO2
reactant | (6-bromo-thieno[3,2-d]pyrimidin-4-yl)-(1H-indol-5-yl)-amine | BrC1=CC=2N=CN=C(C2S1)NC=1C=C2C=CNC2=CC1 | C14H9BrN4S
product | [6-(4-Ethyl-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-(1H-indol-5-yl)-amine | C(C)C1=CC=C(C=C1)C1=CC=2N=CN=C(C2S1)NC=1C=C2C=CNC2=CC1 | C22H18N4S
